### PR TITLE
refactor(Combinatorics/Digraph): add vertex sets

### PR DESCRIPTION
**Pull request by Shreyas4991**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by Shreyas4991** [comment]
Ideally we also want this for SimpleGraph. The very fact that we have two different types for graphs and subgraphs suggests this. It results in definition duplication for both of these types. Further coercing back from a subgraph to a graph causes more headaches.

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 1]
```diff
@@ -224,11 +637,19 @@ instance SDiff.adjDecidable : DecidableRel (G \ H).Adj :=
...
-instance Compl.adjDecidable : DecidableRel (Gᶜ.Adj) :=
-  inferInstanceAs <| DecidableRel fun v w ↦ ¬G.Adj v w
+instance Compl.adjDecidable : DecidableRel (Gᶜ.Adj) := fun v w => by
+  refine (@instDecidableAnd  (v ∈ G.verts) (w ∈ G.verts ∧ ¬ G.Adj v w) ?_
+    (@instDecidableAnd (w ∈ G.verts) (¬ G.Adj v w) ?_ (
+      @instDecidableNot (G.Adj v w) ?_
+    )))
+  all_goals tauto
+
+
```
[the remark this answers is not in the document]
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: The explicit instance construction is necessary precisely because the suggested version doesn't work.

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 2]
```diff
@@ -167,38 +204,413 @@ theorem iSup_adj {f : ι → Digraph V} : (⨆ i, f i).Adj a b ↔ ∃ i, (f i).
...
+    le_sup_inf := by
+      intro G H I
+      simp only [min, SemilatticeInf.inf,
+        Lattice.inf, max, SemilatticeSup.sup, and_imp]
+      constructor
+      · rw [←Set.union_inter_distrib_left]
+      · intro v w hGH gGI
+        tauto
+
```
[the remark this answers is not in the document]
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: tauto is used in a terminal position for fairly trivial propositional operations. This should be fine.

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 3]
```diff
@@ -167,38 +204,413 @@ theorem iSup_adj {f : ι → Digraph V} : (⨆ i, f i).Adj a b ↔ ∃ i, (f i).
...
+    · apply H_sub.right at h_adj
+      assumption
+
+
+lemma le_sup_inf {G : Digraph V} : ∀ (H₁ H₂ H₃ : G.SpanningSubgraph),
+  (inf (sup H₁ H₂) (sup H₁ H₃))≤ (sup H₁ (inf H₂ H₃)) := by
+  intro ⟨H₁, ⟨H₁_sub_verts, H₁_sub_adj⟩, H₁_verts_eq⟩ ⟨H₂, ⟨H₂_sub_verts, H₂_sub_adj⟩, H₂_verts_eq⟩
+    ⟨H₃, ⟨H₃_sub_verts, H₃_sub_adj⟩, H₃_verts_eq⟩
+  constructor
+  · grind
```
[the remark this answers is not in the document]
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: grind is not unsafe to use in a terminal position as far as I am aware.

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 4]
```diff
@@ -46,74 +46,85 @@ In this treatment, a digraph may have self-loops.
...
 /--
 Two vertices are adjacent in the complete bipartite digraph on two vertex types
 if and only if they are not from the same side.
 Any bipartite digraph may be regarded as a subgraph of one of these.
 -/
 @[simps]
-def completeBipartiteGraph (V W : Type*) : Digraph (Sum V W) where
+def completeBipartite (V W : Type*) : Digraph (Sum V W) where
   Adj v w := v.isLeft ∧ w.isRight ∨ v.isRight ∧ w.isLeft
+  verts := Set.univ
```
[the remark this answers is not in the document]
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean:131]: I'll leave this open to the judgement of mathlib reviewers

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 5]
```diff
@@ -122,37 +127,56 @@ theorem isSubgraph_eq_le : (Digraph.IsSubgraph : Digraph V → Digraph V → Pro
...
 instance hasCompl : HasCompl (Digraph V) where
-  compl G := { Adj := fun v w ↦ ¬G.Adj v w }
+  compl G := {
+    verts := G.verts
+    Adj v w := v ∈ G.verts ∧ w ∈ G.verts ∧ ¬G.Adj v w
+  }
 
-@[simp] theorem compl_adj (G : Digraph V) (v w : V) : Gᶜ.Adj v w ↔ ¬G.Adj v w := Iff.rfl
+@[simp] theorem compl_adj (G : Digraph V) (v w : V) (hmem : v ∈ G.verts ∧ w ∈ G.verts)
+  : Gᶜ.Adj v w ↔ ¬G.Adj v w := ⟨fun h => h.2.2, fun h => ⟨hmem.1, hmem.2, h⟩⟩
```
[the remark this answers is not in the document]
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: This would be a useless lemma if the suggestion were implemented.  It changes the meaning of the lemma, which is to show that if two vertices are adjacent in `G`, they are not adjacent in its complement

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 6]
```diff
@@ -167,24 +191,379 @@ theorem iSup_adj {f : ι → Digraph V} : (⨆ i, f i).Adj a b ↔ ∃ i, (f i).
...
+  · intro v w ⟨Hs, Hs_mem, Hs_adj⟩
+    specialize H' Hs Hs_mem
+    apply H'.right at Hs_adj
+    assumption
+
+lemma top_le_sup_compl {G : Digraph V} : ∀ (H : G.SpanningSubgraph), top ≤ sup H (compl H) := by
+  intro ⟨H, ⟨H_sub_verts, H_sub_adj⟩, H_verts⟩
+  constructor
+  · intro v v_in_G
+    grind
```
[the remark this answers is not in the document]
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: your recommended "fix" doesn't work. You are copying this line from a previous version of this proof in which the definitions were different.

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 7]
```diff
@@ -167,24 +191,379 @@ theorem iSup_adj {f : ι → Digraph V} : (⨆ i, f i).Adj a b ↔ ∃ i, (f i).
...
+      assumption
+    · apply H_sub.right at h_adj
+      assumption
+
+lemma le_sup_inf {G : Digraph V} : ∀ (H₁ H₂ H₃ : G.SpanningSubgraph),
+  (inf (sup H₁ H₂) (sup H₁ H₃)) ≤ (sup H₁ (inf H₂ H₃)) := by
+  intro ⟨H₁, ⟨H₁_sub_verts, H₁_sub_adj⟩, H₁_verts_eq⟩ ⟨H₂, ⟨H₂_sub_verts, H₂_sub_adj⟩, H₂_verts_eq⟩
+    ⟨H₃, ⟨H₃_sub_verts, H₃_sub_adj⟩, H₃_verts_eq⟩
+  constructor
+  · grind
```
[the remark this answers is not in the document]
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: This is a `grind` usage in a terminal position.

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 4 above)
[the remark this answers is not in the document]
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean:131]: The provenance of this change is here : https://github.com/leanprover-community/mathlib4/pull/33466/changes/2a0b10e8c2cde2e80943790095fb12edb8199eaf#diff-14f6db474c7f0ccbe167a685126efc047b7eb6854cd72d9468c148f7cee1fb7eL117

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 8]
```diff
@@ -224,11 +608,17 @@ instance SDiff.adjDecidable : DecidableRel (G \ H).Adj :=
...
   inferInstanceAs <| DecidableRel fun _ _ ↦ True
 
-instance Compl.adjDecidable : DecidableRel (Gᶜ.Adj) :=
-  inferInstanceAs <| DecidableRel fun v w ↦ ¬G.Adj v w
+instance Compl.adjDecidable : DecidableRel (Gᶜ.Adj) := fun v w => by
+  refine (@instDecidableAnd  (v ∈ G.verts) (w ∈ G.verts ∧ ¬ G.Adj v w) ?_
+    (@instDecidableAnd (w ∈ G.verts) (¬ G.Adj v w) ?_ (
+      @instDecidableNot (G.Adj v w) ?_
+    )))
+  all_goals tauto
```
[the remark this answers is not in the document]
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: This is a repeat suggestion and one that doesn't work

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 9]
```diff
@@ -224,11 +608,17 @@ instance SDiff.adjDecidable : DecidableRel (G \ H).Adj :=
...
 
 end Decidable
 
+end SpanningSubgraphs
```
[the remark this answers is not in the document]
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: This is just plain wrong.

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 10]
```diff
@@ -167,24 +191,379 @@ theorem iSup_adj {f : ι → Digraph V} : (⨆ i, f i).Adj a b ↔ ∃ i, (f i).
...
+    rw [H_verts_eq]
+  · intro v w ⟨Hs, Hs_mem, Hs_adj⟩
+    specialize H' Hs Hs_mem
+    apply H'.right at Hs_adj
+    assumption
+
+lemma top_le_sup_compl {G : Digraph V} : ∀ (H : G.SpanningSubgraph), top ≤ sup H (compl H) := by
+  intro ⟨H, ⟨H_sub_verts, H_sub_adj⟩, H_verts⟩
+  constructor
+  · intro v v_in_G
```
[the remark this answers is not in the document]
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: this is normal.

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 11]
```diff
@@ -122,37 +127,56 @@ theorem isSubgraph_eq_le : (Digraph.IsSubgraph : Digraph V → Digraph V → Pro
...
 instance hasCompl : HasCompl (Digraph V) where
-  compl G := { Adj := fun v w ↦ ¬G.Adj v w }
+  compl G := {
+    verts := G.verts
+    Adj v w := v ∈ G.verts ∧ w ∈ G.verts ∧ ¬G.Adj v w
+  }
 
-@[simp] theorem compl_adj (G : Digraph V) (v w : V) : Gᶜ.Adj v w ↔ ¬G.Adj v w := Iff.rfl
+@[simp] theorem compl_adj (G : Digraph V) (v w : V) (hmem : v ∈ G.verts ∧ w ∈ G.verts) :
+  Gᶜ.Adj v w ↔ ¬G.Adj v w := ⟨fun h => h.2.2, fun h => ⟨hmem.1, hmem.2, h⟩⟩
```
[the remark this answers is not in the document]
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: This is one I will leave open for reviewers.

**Comment by vihdzp** [comment]
> Tedious coercion issues with graphs and subgraphs which are completely unnecessary in a good definition like this PR.

Could you give an example? It's entirely possible that this could be fixed with better API.

> Further it results in excessive duplication of definitions

I'm not arguing for defining connected subgraphs, complete subgraphs, etc. I think all of that should be handled via the coercion.

> Currently there is no notion of subgraphs being subgraphs of other subgraphs.

Because we don't need it, that could just be expressed via a partial order on the type of subgraphs.

> The algebra situation is rather unfortunate.

I've personally never had an issue with the algebra design. It is a bit confusing to a beginner, but it means that we can easily express results that would be quite annoying otherwise, such as "the set of subgroups of a group is a complete lattice".

Perhaps we should discuss this further on Zulip?

**Comment by vihdzp** [comment]
Could you link to those threads?

**Comment by SnirBroshi** [comment]
> Could you link to those threads?

This PR originates from this message: [#graph theory > What kind of graphs are in Mathlib already? @ 💬](https://leanprover.zulipchat.com/#narrow/channel/252551-graph-theory/topic/What.20kind.20of.20graphs.20are.20in.20Mathlib.20already.3F/near/565989324)
And another short relevant thread: [#graph theory > Set in definition of Graph](https://leanprover.zulipchat.com/#narrow/channel/252551-graph-theory/topic/Set.20in.20definition.20of.20Graph/with/562887199)

Basically many of us in graph theory want `SimpleGraph` to be similarly refactored, and since `Digraph` isn't used that much it's now a POC before `SimpleGraph` gets a similar treatment.

I'm not sure how the graph situation differs from groups, they sure seem similar, strange that it doesn't cause friction. I'd love to hear your thoughts on Zulip! (perhaps in the 2nd thread I linked, or in a new one)

> 1. Currently a subgraph can be only coerced into a graph with all vertices of the vertex type as isolated vertices or only those vertices which are incident to an edge. Nothing in between. Further these coercions are two distinct coercions on the same object so one has to actively name them.

@Shreyas4991 The first one is indeed `Subgraph.spanningCoe`, but I'm not sure what the second one refers to. `Subgraph.coe` is the coercion to `SimpleGraph` and it preserves all vertices in the `Subgraph`, since it converts the `Set` of vertices to a `Subtype`.

**Comment by Shreyas4991** [comment]
Review request ping : @YaelDillies

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 12]
```diff
@@ -167,24 +191,379 @@ theorem iSup_adj {f : ι → Digraph V} : (⨆ i, f i).Adj a b ↔ ∃ i, (f i).
...
+    Subtype.mk_le_mk, ge_iff_le]
+  constructor
+  · simp only [subset_refl]
+  · simp only [imp_false, not_and]
+    intro v w h _ hcontra
+    exfalso
+    exact hcontra h
+
+instance (G : Digraph V) : CompleteBooleanAlgebra
+  (G.SpanningSubgraph) where
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Digraph/Basic.lean]:
```suggestion
instance (G : Digraph V) : CompleteBooleanAlgebra G.SpanningSubgraph where
```

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 13]
```diff
@@ -167,24 +191,379 @@ theorem iSup_adj {f : ι → Digraph V} : (⨆ i, f i).Adj a b ↔ ∃ i, (f i).
...
+  · simp_all [sInf]
+  · intro v w h_adj
+    simp_all only [Subtype.forall, Subtype.mk_le_mk, forall_and_index, sInf]
+    constructor
+    · intro H' H'_sub_G H'_verts_eq H'_mem
+      specialize h_sub H' H'_sub_G H'_verts_eq H'_mem
+      apply h_sub.right at h_adj
+      assumption
+    · apply H_sub.right at h_adj
+      assumption
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Digraph/Basic.lean]: All these proofs are very repetitive. Can you automatise them more and make them look more alike? Then you could write a throwaway tactic proving them all

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 14]
```diff
@@ -167,24 +191,379 @@ theorem iSup_adj {f : ι → Digraph V} : (⨆ i, f i).Adj a b ↔ ∃ i, (f i).
...
+instance (G : Digraph V) : CompleteBooleanAlgebra
+  (G.SpanningSubgraph) where
+  sup := sup
+  le_sup_left := le_sup_left
+  le_sup_right := le_sup_right
+  sup_le := sup_le
+  inf := inf
+  inf_le_left := inf_le_left
+  inf_le_right := inf_le_right
+  le_inf := le_inf
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Digraph/Basic.lean]: Can you remove the fields that are already inferred, like this one?
```suggestion
```

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 15]
```diff
@@ -167,24 +191,379 @@ theorem iSup_adj {f : ι → Digraph V} : (⨆ i, f i).Adj a b ↔ ∃ i, (f i).
...
+section SpanningSubgraphs
+
+/-!
+In this section we provide the complete boolean algebra for spanning subgraphs
+-/
+
+/--
+The type of spanning subgraphs of a digraph `G`
+-/
+abbrev SpanningSubgraph (G : Digraph V) := {H : Digraph V // H ≤ G ∧ H.verts = G.verts}
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Digraph/Basic.lean]: Do we actually care about the lattice of spanning subgraphs? What about adding a relation `IsSpanningSubgraph` instead?

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 16]
```diff
@@ -167,24 +191,379 @@ theorem iSup_adj {f : ι → Digraph V} : (⨆ i, f i).Adj a b ↔ ∃ i, (f i).
...
+  compl := compl
+  top_le_sup_compl := top_le_sup_compl
+  le_sup_inf := le_sup_inf
+  inf_compl_le_bot := inf_compl_le_bot
+  sSup := sSup
+  sInf := sInf
+  le_sSup := le_sSup
+  sSup_le := sSup_le
+  sInf_le := sInf_le
+  le_sInf := le_sInf
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Digraph/Basic.lean]: Now that I think of it more, you can get the `DistribLattice` part of this instance by embedding into `G.verts \r G.verts \r Prop`, embedding which preserves lattice operations

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 15 above)
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: Good point. I think it's a standin for the subgraph relation's instance because there the vertex set was morally set in stone as essentially Set.univ

We also tried other instances as discussed in the Zulip Channel and they didn't work as you might recall.

Comment (YaelDillies) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: Yeah exactly. I would hold defining the type of spanning subgraphs until we actually need it

Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: Okay. I suppose we should also let Peter Nelson know since he wanted this instance in the first place.

Comment (YaelDillies) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: @apnelson1 ?

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 13 above)
Comment (vihdzp) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: This seems like a prime candidate for `aesop`, does it work if you just chuck it in there?

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 14 above)
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: Removing those lines throws up an error that those fields are missing

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 13 above)
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: @vihdzp : aesop doesn't work. I tried it again. I do see that these are repetitive proofs, but they all occur inside a typeclass instance. Short of tagging definitions like `max` and `min` with `@[simp]`, I am not sure how I could macro them away. I tried that. Any examples that show what you mean would help me understand better maybe.

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 17]
```diff
@@ -46,74 +46,79 @@ In this treatment, a digraph may have self-loops.
 -/
 @[ext]
 structure Digraph (V : Type*) where
+  /-- The vertex set of a digraph. -/
+  verts : Set V
```
Comment (IvanRenison) [inline Mathlib/Combinatorics/Digraph/Basic.lean:52]: In `Graph` this is called `vertexSet`, maybe we should have the same name here?

Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean:52]: It's long. Also `verts` comes from 'SimpleGraph.Subgraph` which is a much older and more well developed API. So it is already used a lot in the library.

Comment (IvanRenison) [reply Mathlib/Combinatorics/Digraph/Basic.lean:52]: Ok

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 16 above)
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: Done

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 14 above)
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: Fixed to an extent.

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 13 above)
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: Fixed.

**Comment by Shreyas4991** [comment]
@YaelDillies done. There seem to have been some changes in type class inference. I tried changing the abbrev for defining SpanningSubgraph to a def, but it broke almost all typeclass inference.

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 18]
```diff
@@ -46,114 +46,142 @@ In this treatment, a digraph may have self-loops.
...
-namespace Digraph
-
 /--
 The complete digraph on a type `V` (denoted by `⊤`)
 is the digraph whose vertices are all adjacent.
 Note that every vertex is adjacent to itself in `⊤`.
 -/
-protected def completeDigraph (V : Type*) : Digraph V where Adj := ⊤
+protected def completeDigraph (V : Type*) : Digraph V where
+  verts := ⊤
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Digraph/Basic.lean]:
```suggestion
  verts := .univ
```
We don't (yet) use `⊤` on `Set`

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 19]
```diff
@@ -46,114 +46,142 @@ In this treatment, a digraph may have self-loops.
...
 
 /-- For digraphs `G`, `H`, `G ≤ H` iff `∀ a b, G.Adj a b → H.Adj a b`. -/
 instance : LE (Digraph V) := ⟨Digraph.IsSubgraph⟩
 
 @[simp]
 theorem isSubgraph_eq_le : (Digraph.IsSubgraph : Digraph V → Digraph V → Prop) = (· ≤ ·) := rfl
 
+/-- The relation that one `Digraph` is a spanning subgraph of another. -/
+abbrev IsSpanningSubgraph (x y : Digraph V) : Prop :=
+  x ≤ y ∧ x.verts = y.verts
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Digraph/Basic.lean:131]: Why `abbrev`? `x` and `y` both appear twice inside the body

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 20]
```diff
@@ -46,114 +46,142 @@ In this treatment, a digraph may have self-loops.
...
+
 /-- The supremum of two digraphs `x ⊔ y` has edges where either `x` or `y` have edges. -/
 instance : Max (Digraph V) where
-  max x y := { Adj := x.Adj ⊔ y.Adj }
+  max x y := {
+    verts := x.verts ⊔ y.verts
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Digraph/Basic.lean]:
```suggestion
    verts := x.verts \union y.verts
```

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 21]
```diff
@@ -46,114 +46,142 @@ In this treatment, a digraph may have self-loops.
...
+  }
 
 @[simp]
 theorem sup_adj (x y : Digraph V) (v w : V) : (x ⊔ y).Adj v w ↔ x.Adj v w ∨ y.Adj v w := Iff.rfl
 
 /-- The infimum of two digraphs `x ⊓ y` has edges where both `x` and `y` have edges. -/
 instance : Min (Digraph V) where
-  min x y := { Adj := x.Adj ⊓ y.Adj }
+  min x y := {
+    verts := x.verts ⊓ y.verts
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Digraph/Basic.lean]:
```suggestion
    verts := x.verts ⊓ \inter y.verts
```

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 22]
```diff
@@ -46,114 +46,142 @@ In this treatment, a digraph may have self-loops.
...
 are adjacent in the complement, and every nonadjacent pair of vertices is adjacent. -/
 instance : Compl (Digraph V) where
-  compl G := { Adj := fun v w ↦ ¬G.Adj v w }
+  compl G := {
+    verts := G.verts
+    Adj v w := v ∈ G.verts ∧ w ∈ G.verts ∧ ¬G.Adj v w
+  }
 
-@[simp] theorem compl_adj (G : Digraph V) (v w : V) : Gᶜ.Adj v w ↔ ¬G.Adj v w := Iff.rfl
+@[simp] theorem compl_adj (G : Digraph V) (v w : V) (hmem : v ∈ G.verts ∧ w ∈ G.verts) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Digraph/Basic.lean]:
```suggestion
@[simp] theorem compl_adj (G : Digraph V) (v w : V) (hv : v ∈ G.verts) (hw : w ∈ G.verts) :
```
See https://github.com/leanprover-community/leanprover-community.github.io/pull/885

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 23]
```diff
@@ -221,11 +539,17 @@ instance SDiff.adjDecidable : DecidableRel (G \ H).Adj :=
 instance Top.adjDecidable : DecidableRel (⊤ : Digraph V).Adj :=
   inferInstanceAs <| DecidableRel fun _ _ ↦ True
 
-instance Compl.adjDecidable : DecidableRel (Gᶜ.Adj) :=
-  inferInstanceAs <| DecidableRel fun v w ↦ ¬G.Adj v w
+instance Compl.adjDecidable : DecidableRel (Gᶜ.Adj) := fun v w => by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Digraph/Basic.lean]:
```suggestion
instance decidableRelAdjCompl : DecidableRel Gᶜ.Adj := fun v w => by
```

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 24]
```diff
@@ -205,6 +522,7 @@ instance [Nonempty V] : Nontrivial (Digraph V) := by
 section Decidable
 
 variable (V) (H : Digraph V) [DecidableRel G.Adj] [DecidableRel H.Adj]
+variable [DecidablePred G.verts] [DecidablePred H.verts]
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Digraph/Basic.lean]: This is defeq abuse
```suggestion
variable [DecidablePred (\. \in G.verts)] [DecidablePred (\. \in H.verts)]
```

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 25]
```diff
@@ -195,7 +508,11 @@ instance completeAtomicBooleanAlgebra : CompleteAtomicBooleanAlgebra (Digraph V)
 
 instance [IsEmpty V] : Unique (Digraph V) where
   default := ⊥
-  uniq G := by ext1; congr!
+  uniq G := by
+    ext1
+    · rw [←Digraph.emptyDigraph_eq_bot, Set.eq_empty_of_isEmpty G.verts]
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Digraph/Basic.lean]:
```suggestion
    · rw [← Digraph.emptyDigraph_eq_bot, Set.eq_empty_of_isEmpty G.verts]
```

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 26]
```diff
@@ -167,21 +195,306 @@ theorem iSup_adj {f : ι → Digraph V} : (⨆ i, f i).Adj a b ↔ ∃ i, (f i).
...
+  obtain ⟨H₂, _, _⟩ := H₂
+  simp [sup]
+
 
-instance distribLattice : DistribLattice (Digraph V) := fast_instance%
-  adj_injective.distribLattice _ .rfl .rfl (fun _ _ ↦ rfl) fun _ _ ↦ rfl
+/--
+The top subgraph `⊤`
+-/
+def top {G : Digraph V} : G.SpanningSubgraph := ⟨G, by aesop⟩
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Digraph/Basic.lean]: Can you inline in an `OrderTop` instance?

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 19 above)
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean:131]: ~~I changed it to def now.~~ Wrong one. Keeping this abbrev stops Aesop from breaking on default arguments.

Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean:131]: Changed it to def. I had to add a bunch of iff lemmas

**Comment by Shreyas4991** [comment]
-awaiting-author

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 27]
```diff
@@ -46,114 +46,153 @@ In this treatment, a digraph may have self-loops.
...
   /-- The adjacency relation of a digraph. -/
   Adj : V → V → Prop
+  /-- There is no edge of the digraph outside its vertices. -/
+  left_mem_verts_of_adj ⦃v w : V⦄ : Adj v w → v ∈ verts := by aesop
+  /-- There is no edge of the digraph outside its vertices. -/
+  right_mem_verts_of_adj ⦃v w : V⦄ : Adj v w → w ∈ verts := by aesop
+
+namespace Digraph
+
+attribute [aesop unsafe] left_mem_verts_of_adj right_mem_verts_of_adj
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Digraph/Basic.lean:60]:
```suggestion
attribute [grind \r] left_mem_verts_of_adj right_mem_verts_of_adj
```

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 4 above)
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Combinatorics/Digraph/Basic.lean:108]: The new name looks reasonable to me. Can you however add the deprecation?

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 28]
```diff
@@ -46,114 +46,153 @@ In this treatment, a digraph may have self-loops.
...
 
 @[simp]
 theorem isSubgraph_eq_le : (Digraph.IsSubgraph : Digraph V → Digraph V → Prop) = (· ≤ ·) := rfl
 
+/-- The relation that one `Digraph` is a spanning subgraph of another. -/
+def IsSpanningSubgraph (x y : Digraph V) : Prop :=
+  x ≤ y ∧ x.verts = y.verts
+@[simp] theorem isSpanningSubgraph_iff {x y : Digraph V} :
+    IsSpanningSubgraph x y ↔ x ≤ y ∧ x.verts = y.verts := by
+  rfl
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Digraph/Basic.lean:134]: Having this as a simp lemma kills the point of making `IsSpanningSubgraph` a `def`. Surely something like this is more appropriate?
```suggestion
@[grind =] theorem isSpanningSubgraph_iff {x y : Digraph V} :
    IsSpanningSubgraph x y ↔ x ≤ y ∧ x.verts = y.verts := by
  rfl
```

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 29]
```diff
@@ -46,114 +46,153 @@ In this treatment, a digraph may have self-loops.
...
+
+@[simp] theorem isSpanningSubgraph_self (G : Digraph V) : IsSpanningSubgraph G G := by
+  rw [isSpanningSubgraph_iff]
+  constructor
+  · constructor
+    · intro v hv; exact hv
+    · intro v w h; exact h
+  · rfl
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Digraph/Basic.lean:142]:
```suggestion
  simp [IsSpanningSubgraph]
```
surely?

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 30]
```diff
@@ -46,114 +46,153 @@ In this treatment, a digraph may have self-loops.
...
 instance : Compl (Digraph V) where
-  compl G := { Adj := fun v w ↦ ¬G.Adj v w }
+  compl G := {
+    verts := G.verts
+    Adj v w := v ∈ G.verts ∧ w ∈ G.verts ∧ ¬G.Adj v w
+  }
 
-@[simp] theorem compl_adj (G : Digraph V) (v w : V) : Gᶜ.Adj v w ↔ ¬G.Adj v w := Iff.rfl
+@[simp] theorem compl_adj (G : Digraph V) (v w : V) (hv : v ∈ G.verts) (hw : w ∈ G.verts) :
+  Gᶜ.Adj v w ↔ ¬G.Adj v w := ⟨fun h => h.2.2, fun h => ⟨hv, hw, h⟩⟩
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Digraph/Basic.lean:173]:
```suggestion
    Gᶜ.Adj v w ↔ ¬G.Adj v w := ⟨fun h => h.2.2, fun h => ⟨hv, hw, h⟩⟩
```

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 31]
```diff
@@ -46,114 +46,153 @@ In this treatment, a digraph may have self-loops.
...
+  sSup s := {
+    verts := {v | ∃ G ∈ s, v ∈ G.verts}
+    Adj v w := ∃ G ∈ s, Adj G v w
+  }
 
 instance infSet : InfSet (Digraph V) where
-  sInf s := { Adj := fun a b ↦ (∀ ⦃G⦄, G ∈ s → Adj G a b) }
+  sInf s := {
+    verts := {v | ∀ G ∈ s, v ∈ G.verts}
+    Adj := fun a b ↦ (∀ ⦃G⦄, G ∈ s → Adj G a b)
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Digraph/Basic.lean:194]:
```suggestion
    Adj := fun a b ↦ (∀ ⦃G⦄, G ∈ s → Adj G a b)
```
```suggestion
    Adj a b := ∀ ⦃G⦄, G ∈ s → Adj G a b
```

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 32]
```diff
@@ -167,21 +206,361 @@ theorem iSup_adj {f : ι → Digraph V} : (⨆ i, f i).Adj a b ↔ ∃ i, (f i).
...
+      constructor <;> aesop (add simp [max, SemilatticeSup.sup])
+
+    le_inf := by
+      intros
+      constructor <;> aesop (add simp [min, SemilatticeInf.inf, Lattice.inf])
+
+    le_sup_inf := by
+      intros
+      constructor <;> aesop (add simp [min, SemilatticeInf.inf, Lattice.inf, max,
+        SemilatticeSup.sup, Set.union_inter_distrib_left])
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Digraph/Basic.lean:248]:
```suggestion
instance distribLattice : DistribLattice (Digraph V) :=
  fast_instance% Function.Injective.distribLattice (fun G ↦ (G.verts, G.Adj)
  -- a bunch of easy proofs here
```

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 33]
```diff
@@ -167,21 +206,361 @@ theorem iSup_adj {f : ι → Digraph V} : (⨆ i, f i).Adj a b ↔ ∃ i, (f i).
...
+
+instance : PartialOrder (Digraph V) where
+  le_antisymm := by
+    intro G H ⟨HsubG_verts, HsubG_edges⟩ ⟨GsubH_verts, GsubH_edges⟩
+    ext <;> grind
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Digraph/Basic.lean:253]: This is implied by the instance above
```suggestion
```

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 34]
```diff
@@ -167,21 +206,361 @@ theorem iSup_adj {f : ι → Digraph V} : (⨆ i, f i).Adj a b ↔ ∃ i, (f i).
...
+  top : G.SpanningSubgraph := ⟨G, by aesop⟩
+  le_top := by
+    intro ⟨H, ⟨H_sub, H_verts⟩⟩
+    simp_all
 
-instance completeAtomicBooleanAlgebra : CompleteAtomicBooleanAlgebra (Digraph V) where
+/--
+The bottom subgraph `⊥`
+-/
+instance {G : Digraph V} : OrderBot (G.SpanningSubgraph) where
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Digraph/Basic.lean:330]:
```suggestion
instance {G : Digraph V} : OrderBot G.SpanningSubgraph where
```

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 35]
```diff
@@ -167,21 +206,361 @@ theorem iSup_adj {f : ι → Digraph V} : (⨆ i, f i).Adj a b ↔ ∃ i, (f i).
...
+    intro H
+    exact bot_le
+  top_le_sup_compl := top_le_sup_compl
+  inf_compl_le_bot := inf_compl_le_bot
+
+instance Top : Top (Digraph V) where
   top := Digraph.completeDigraph V
+
+instance Bot : Bot (Digraph V) where
   bot := Digraph.emptyDigraph V
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Digraph/Basic.lean:563]: This has nothing to do in the spanning subgraphs section?

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 36]
```diff
@@ -167,21 +206,361 @@ theorem iSup_adj {f : ι → Digraph V} : (⨆ i, f i).Adj a b ↔ ∃ i, (f i).
...
+      H₁.val ⊔ H₂.val ⊓ H₃.val
+    exact le_sup_inf
+  compl := compl
+  le_top := by
+    intros; simp_all only [le_top]
+  bot_le := by
+    intro H
+    exact bot_le
+  top_le_sup_compl := top_le_sup_compl
+  inf_compl_le_bot := inf_compl_le_bot
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Digraph/Basic.lean:557]:
```suggestion
instance (G : Digraph V) : CompleteBooleanAlgebra G.SpanningSubgraph :=
  Function.Injective.completeBooleanAlgebra Adj
  -- a bunch of easy proofs
```
once you turn all the `def`s above into instances

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 37]
```diff
@@ -221,11 +605,17 @@ instance SDiff.adjDecidable : DecidableRel (G \ H).Adj :=
...
   inferInstanceAs <| DecidableRel fun _ _ ↦ True
 
-instance Compl.adjDecidable : DecidableRel (Gᶜ.Adj) :=
-  inferInstanceAs <| DecidableRel fun v w ↦ ¬G.Adj v w
+instance decidableRelAdjCompl : DecidableRel (Gᶜ.Adj) := fun v w => by
+  refine (@instDecidableAnd  (v ∈ G.verts) (w ∈ G.verts ∧ ¬ G.Adj v w) ?_
+    (@instDecidableAnd (w ∈ G.verts) (¬ G.Adj v w) ?_ (
+      @instDecidableNot (G.Adj v w) ?_
+    )))
+  all_goals tauto
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Digraph/Basic.lean:613]: Why can't this be `inferInstanceAs ...` like the other ones?

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 38]
```diff
@@ -221,11 +605,17 @@ instance SDiff.adjDecidable : DecidableRel (G \ H).Adj :=
 instance Top.adjDecidable : DecidableRel (⊤ : Digraph V).Adj :=
   inferInstanceAs <| DecidableRel fun _ _ ↦ True
 
-instance Compl.adjDecidable : DecidableRel (Gᶜ.Adj) :=
-  inferInstanceAs <| DecidableRel fun v w ↦ ¬G.Adj v w
+instance decidableRelAdjCompl : DecidableRel (Gᶜ.Adj) := fun v w => by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Digraph/Basic.lean:608]:
```suggestion
instance decidableRelAdjCompl : DecidableRel Gᶜ.Adj := fun v w => by
```

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 29 above)
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: didn't work

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 32 above)
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: The syntax doesn't seem to work. Do you have an example I can use?

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 35 above)
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean:311]: Valid. I moved up the ending of that section

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 29 above)
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: It works if I move this theorem after distribLattice.

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 39]
```diff
@@ -167,21 +210,323 @@ theorem iSup_adj {f : ι → Digraph V} : (⨆ i, f i).Adj a b ↔ ∃ i, (f i).
...
+instance {G : Digraph V} : PartialOrder G.SpanningSubgraph where
+  le H K := H.val ≤ K.val
+  le_refl H := by
+    constructor
+    · intro v hv; exact hv
+    · intro v w h; exact h
+  le_trans H K L hHK hKL := hHK.trans hKL
+  le_antisymm H K hHK hKH := by
+    apply Subtype.ext
+    exact le_antisymm hHK hKH
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/Digraph/Basic.lean]:
```suggestion
instance {G : Digraph V} : PartialOrder G.SpanningSubgraph :=
  Subtype.partialOrder G.IsSpanningSubgraph
```

Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: Yael suggested removing the PartialOrder instance entirely since it is implied by the distribLattice instance.

**Comment by Shreyas4991** [comment]
@YaelDillies I think I got all your comments. Apologies for the delay. Thesis-writing.

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 40]
```diff
@@ -167,21 +202,249 @@ theorem iSup_adj {f : ι → Digraph V} : (⨆ i, f i).Adj a b ↔ ∃ i, (f i).
...
+      constructor
+      · simpa [max, SemilatticeSup.sup] using
+          (show H₁.val ⊔ H₂.val ≤ G from _root_.sup_le H₁.property.1 H₂.property.1)
+      · aesop (add simp [max, SemilatticeSup.sup, h₁verts, h₂verts])
+
+/--
+The top subgraph `⊤`
+-/
+instance {G : Digraph V} : OrderTop G.SpanningSubgraph where
+  top : G.SpanningSubgraph := ⟨G, by aesop⟩
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Digraph/Basic.lean]: That's cute but unnecessary?
```suggestion
  top := ⟨G, by aesop⟩
```

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 41]
```diff
@@ -167,21 +202,249 @@ theorem iSup_adj {f : ι → Digraph V} : (⨆ i, f i).Adj a b ↔ ∃ i, (f i).
...
+  le_trans H K L hHK hKL := hHK.trans hKL
+  le_antisymm H K hHK hKH := by
+    apply Subtype.ext
+    exact le_antisymm hHK hKH
+
+
+/-- The adjacency relation of a spanning subgraph, restricted to the edges of the ambient
+digraph. -/
+@[simp] def SpanningSubgraph.Adj {G : Digraph V} (H : G.SpanningSubgraph) :
+    ({e : V × V // G.Adj e.1 e.2} → Prop) := fun e ↦ H.val.Adj e.1.1 e.1.2
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Digraph/Basic.lean]:
```suggestion
    {e : V × V // G.Adj e.1 e.2} → Prop := fun e ↦ H.val.Adj e.1.1 e.1.2
```

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 42]
```diff
@@ -167,21 +202,249 @@ theorem iSup_adj {f : ι → Digraph V} : (⨆ i, f i).Adj a b ↔ ∃ i, (f i).
...
+    ⟨G.verts, fun _ _ => False, by simp, by simp⟩,
+    by
+      rw [isSpanningSubgraph_iff]
+      constructor
+      · constructor
+        · intro v hv
+          exact hv
+        · intro v w h
+          exact False.elim h
+      · rfl⟩
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Digraph/Basic.lean]: Shouldn't this be a preliminary lemma? Also surely the proof is just grind?

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 43]
```diff
@@ -167,21 +202,249 @@ theorem iSup_adj {f : ι → Digraph V} : (⨆ i, f i).Adj a b ↔ ∃ i, (f i).
...
+  bot_le := by
+    intro H
+    constructor
+    · intro v hv
+      simpa [H.property.2] using hv
+    · intro v w h
+      exact False.elim h
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Digraph/Basic.lean]: Same here

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 44]
```diff
@@ -167,21 +202,249 @@ theorem iSup_adj {f : ι → Digraph V} : (⨆ i, f i).Adj a b ↔ ∃ i, (f i).
...
+  · intro h
+    constructor
+    · intro v hv
+      rw [K.property.2]
+      rwa [H.property.2] at hv
+    · intro v w hvw
+      have hG : G.Adj v w := H.property.1.2 hvw
+      exact h ⟨(v, w), hG⟩ hvw
+  · intro h e he
+    exact h.2 he
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Digraph/Basic.lean]: here again

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 45]
```diff
@@ -167,21 +202,249 @@ theorem iSup_adj {f : ι → Digraph V} : (⨆ i, f i).Adj a b ↔ ∃ i, (f i).
...
+    Function.Injective (SpanningSubgraph.Adj (G := G)) := by
+  intro H K h
+  apply le_antisymm
+  · exact SpanningSubgraph.adj_le_iff.mp h.le
+  · exact SpanningSubgraph.adj_le_iff.mp h.ge
+
+@[simp] theorem SpanningSubgraph.adj_sSup {G : Digraph V} (s : Set G.SpanningSubgraph) :
+    SpanningSubgraph.Adj (sSup s) = ⨆ H ∈ s, SpanningSubgraph.Adj H := by
+  funext e
+  apply propext
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Digraph/Basic.lean]:
```suggestion
  ext e
```
? Same below

**Comment by Shreyas4991** [comment]
-awaiting-author

**Comment by Shreyas4991** [comment]
@YaelDillies  anything further?

**Comment by YaelDillies** [comment]
Can you please resolve the comments you've satisfactorily addressed? I had to do it with my old round of comments and I noticed that there were some that you had neither satisfactorily addressed nor commented on

**Comment by Shreyas4991** [comment]
> Can you please resolve the comments you've satisfactorily addressed? I had to do it with my old round of comments and I noticed that there were some that you had neither satisfactorily addressed nor commented on

Apologies. Juggling a lot here. Will do soon.

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 38 above)
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: Done.

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 37 above)
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: Now it is. Done.

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 36 above)
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: Also done.

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 39 above)
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: This is an error:
```lean
Type mismatch
  Subtype.partialOrder G.IsSpanningSubgraph
has type
  PartialOrder (Subtype G.IsSpanningSubgraph)
but is expected to have type
  PartialOrder G.SpanningSubgraph
```

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 35 above)
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean:311]: I fixed this so I am resolving it.

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 34 above)
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: Done.

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 32 above)
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: Done. Now the instance uses fast_instance%. This syntax seems poorly documented for usage so it was hard to learn

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 31 above)
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: I made the change for Adj a b, but for sInf I switched to constructor brackets. Hope that is fine.

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 30 above)
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: I fixed the indentation and line breaks. It fits mathlib's convention now.

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 29 above)
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: fixed now.

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 44 above)
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: This was resolved. now the proof is through grind.

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 41 above)
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: Removed the unnecessary bracket.

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 40 above)
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: Done.

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 39 above)
Comment (SnirBroshi) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: Oh `IsSpanningSubgraph` takes two graphs. Then
```suggestion
instance {G : Digraph V} : PartialOrder G.SpanningSubgraph :=
  Subtype.partialOrder (·.IsSpanningSubgraph G)
```

Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: Again an error. It seems lean is not looking past notation these days : 
```
Type mismatch
  Subtype.partialOrder fun x ↦ ?m.5
has type
  PartialOrder { x // ?m.5 }
but is expected to have type
  PartialOrder G.SpanningSubgraph
  
```

Comment (YaelDillies) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: Have you not just forgotten to expose `SpanningSubgraph`?

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 43 above)
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: Finally fixed. this I had previously put the le_iff lemma of SpanningSubgraph too far down in the file.

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 39 above)
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: I put @[expose] public section on top of the file. Is that what I need to do? If so, then this suggestion doesn't work even with `SpanningSubgraph` exposed.

**Comment by Shreyas4991** [comment]
@YaelDillies I think got all comments except the ongoing discussion on the partial order instance of SpanningSubgraph. It turns out several of my prior comments were marked "pending" because I accidentally started a review. I also rechecked those comments now.

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 39 above)
Comment (SnirBroshi) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: Both
```suggestion
instance {G : Digraph V} : PartialOrder G.SpanningSubgraph :=
  Subtype.partialOrder (IsSpanningSubgraph · G)
```
and
```suggestion
instance {G : Digraph V} : PartialOrder G.SpanningSubgraph :=
  Subtype.partialOrder _
```
work. The error message lets you know what's wrong and how to fix it.

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 46]
```diff
@@ -46,114 +46,159 @@ In this treatment, a digraph may have self-loops.
...
+@[grind =] theorem le_iff {G H : Digraph V} :
+    G ≤ H ↔ G.verts ⊆ H.verts ∧ ∀ ⦃v w⦄, G.Adj v w → H.Adj v w := Iff.rfl
+
 @[simp]
 theorem isSubgraph_eq_le : (Digraph.IsSubgraph : Digraph V → Digraph V → Prop) = (· ≤ ·) := rfl
 
+/-- The relation that one `Digraph` is a spanning subgraph of another. -/
+def IsSpanningSubgraph (x y : Digraph V) : Prop :=
+  x ≤ y ∧ x.verts = y.verts
+@[grind =] theorem isSpanningSubgraph_iff {x y : Digraph V} :
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/Digraph/Basic.lean]:
```suggestion
  x ≤ y ∧ x.verts = y.verts

@[grind =] theorem isSpanningSubgraph_iff {x y : Digraph V} :
```

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 47]
```diff
@@ -46,114 +46,159 @@ In this treatment, a digraph may have self-loops.
...
+    IsSpanningSubgraph x y ↔ x ≤ y ∧ x.verts = y.verts := by
+  rfl
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/Digraph/Basic.lean]:
```suggestion
    IsSpanningSubgraph x y ↔ x ≤ y ∧ x.verts = y.verts :=
  .rfl
```

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 31 above)
Comment (SnirBroshi) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: This isn't done

Edit: this is a comment on a thread, but in case it's hard to find since GitHub UI is weird, the suggestion was:
```suggestion
    Adj a b := ∀ ⦃G⦄, G ∈ s → Adj G a b
```

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 48]
```diff
@@ -167,21 +212,190 @@ theorem iSup_adj {f : ι → Digraph V} : (⨆ i, f i).Adj a b ↔ ∃ i, (f i).
...
+
+/-- The infimum of a set of spanning subgraphs. -/
+instance {G : Digraph V} : InfSet G.SpanningSubgraph where
+  sInf ℋ := ⟨{
+      verts := G.verts
+      Adj v w := (∀ H ∈ ℋ, H.val.Adj v w) ∧ G.Adj v w
+    }, by
+      constructor
+      · constructor <;> aesop
+      · rfl⟩
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/Digraph/Basic.lean]:
```suggestion
    }, by grind⟩
```

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 49]
```diff
@@ -167,21 +212,190 @@ theorem iSup_adj {f : ι → Digraph V} : (⨆ i, f i).Adj a b ↔ ∃ i, (f i).
...
+@[grind =]
+theorem SpanningSubgraph.adj_le_adj_iff
+    {G : Digraph V} {H K : G.SpanningSubgraph} :
+    H.Adj ≤ K.Adj ↔
+      ∀ ⦃v w⦄, H.val.Adj v w → K.val.Adj v w := by
+  constructor
+  · intro h v w hvw
+    exact h ⟨(v, w), H.property.1.2 hvw⟩ hvw
+  · intro h e he
+    exact h he
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/Digraph/Basic.lean]:
```suggestion
variable {G} in
@[grind =]
theorem SpanningSubgraph.adj_le_adj_iff {H K : G.SpanningSubgraph} :
    H.Adj ≤ K.Adj ↔ ∀ ⦃v w⦄, H.val.Adj v w → K.val.Adj v w :=
  ⟨fun h v w hvw ↦ h ⟨(v, w), H.property.left.right hvw⟩ hvw, fun h _ he ↦ h he⟩
```

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 50]
```diff
@@ -167,21 +212,190 @@ theorem iSup_adj {f : ι → Digraph V} : (⨆ i, f i).Adj a b ↔ ∃ i, (f i).
...
+      · rfl⟩
+
+instance {G : Digraph V} : HImp G.SpanningSubgraph where
+  himp H K := Hᶜ ⊔ K
+
+instance {G : Digraph V} : SDiff G.SpanningSubgraph where
+  sdiff H K := H ⊓ Kᶜ
+
+@[simp] theorem SpanningSubgraph.sSup_val_adj {G : Digraph V} (s : Set G.SpanningSubgraph)
+    (v w : V) : (sSup s).val.Adj v w ↔ ∃ H ∈ s, H.val.Adj v w := Iff.rfl
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/Digraph/Basic.lean]:
```suggestion
    (v w : V) : (sSup s).val.Adj v w ↔ ∃ H ∈ s, H.val.Adj v w := .rfl
```

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 51]
```diff
@@ -167,21 +212,190 @@ theorem iSup_adj {f : ι → Digraph V} : (⨆ i, f i).Adj a b ↔ ∃ i, (f i).
...
+
+@[simp] theorem SpanningSubgraph.sInf_val_adj {G : Digraph V} (s : Set G.SpanningSubgraph)
+    (v w : V) : (sInf s).val.Adj v w ↔
+      (∀ H ∈ s, H.val.Adj v w) ∧ G.Adj v w := Iff.rfl
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/Digraph/Basic.lean]:
```suggestion
    (v w : V) : (sInf s).val.Adj v w ↔ (∀ H ∈ s, H.val.Adj v w) ∧ G.Adj v w := .rfl
```

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 52]
```diff
@@ -167,21 +212,190 @@ theorem iSup_adj {f : ι → Digraph V} : (⨆ i, f i).Adj a b ↔ ∃ i, (f i).
...
+
+@[simp] theorem SpanningSubgraph.compl_val_adj {G : Digraph V} (H : G.SpanningSubgraph)
+    (v w : V) : (Hᶜ).val.Adj v w ↔ G.Adj v w ∧ ¬H.val.Adj v w := Iff.rfl
+
+@[simp] theorem SpanningSubgraph.himp_val_adj {G : Digraph V} (H K : G.SpanningSubgraph)
+    (v w : V) : (H ⇨ K).val.Adj v w ↔
+      (G.Adj v w ∧ ¬H.val.Adj v w) ∨ K.val.Adj v w := Iff.rfl
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/Digraph/Basic.lean]:
```suggestion
    (v w : V) : (H ⇨ K).val.Adj v w ↔ (G.Adj v w ∧ ¬H.val.Adj v w) ∨ K.val.Adj v w := .rfl
```

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 53]
```diff
@@ -167,21 +212,190 @@ theorem iSup_adj {f : ι → Digraph V} : (⨆ i, f i).Adj a b ↔ ∃ i, (f i).
...
+
+@[simp] theorem SpanningSubgraph.sdiff_val_adj {G : Digraph V} (H K : G.SpanningSubgraph)
+    (v w : V) : (H \ K).val.Adj v w ↔
+      H.val.Adj v w ∧ (G.Adj v w ∧ ¬K.val.Adj v w) := Iff.rfl
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/Digraph/Basic.lean]:
```suggestion
    (v w : V) : (H \ K).val.Adj v w ↔ H.val.Adj v w ∧ (G.Adj v w ∧ ¬K.val.Adj v w) := .rfl
```

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 54]
```diff
@@ -167,21 +212,190 @@ theorem iSup_adj {f : ι → Digraph V} : (⨆ i, f i).Adj a b ↔ ∃ i, (f i).
...
+theorem SpanningSubgraph.adj_le_iff {G : Digraph V} {H K : G.SpanningSubgraph} :
+    H.Adj ≤ K.Adj ↔ H ≤ K := by
+  grind
+
+theorem SpanningSubgraph.adj_injective {G : Digraph V} :
+    Function.Injective (SpanningSubgraph.Adj (G := G)) := by
+  intro H K h
+  apply le_antisymm
+  · exact SpanningSubgraph.adj_le_iff.mp h.le
+  · exact SpanningSubgraph.adj_le_iff.mp h.ge
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/Digraph/Basic.lean]:
```suggestion
    Function.Injective (SpanningSubgraph.Adj (G := G)) :=
  fun _ _ h ↦ (SpanningSubgraph.adj_le_iff.mp h.le).antisymm (SpanningSubgraph.adj_le_iff.mp h.ge)
```

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 55]
```diff
@@ -167,21 +212,190 @@ theorem iSup_adj {f : ι → Digraph V} : (⨆ i, f i).Adj a b ↔ ∃ i, (f i).
...
+
+@[simp] theorem SpanningSubgraph.adj_top {G : Digraph V} :
+    SpanningSubgraph.Adj (⊤ : G.SpanningSubgraph) = ⊤ := by
+  ext e
+  exact iff_true_intro e.2
+
+@[simp] theorem SpanningSubgraph.adj_compl {G : Digraph V} (H : G.SpanningSubgraph) :
+    SpanningSubgraph.Adj Hᶜ = (SpanningSubgraph.Adj H)ᶜ := by
+  ext e
+  simp [Pi.compl_apply, e.2]
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/Digraph/Basic.lean]:
```suggestion
  simp [e.2]
```

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 56]
```diff
@@ -167,21 +212,190 @@ theorem iSup_adj {f : ι → Digraph V} : (⨆ i, f i).Adj a b ↔ ∃ i, (f i).
...
+
+@[simp] theorem SpanningSubgraph.adj_himp {G : Digraph V} (H K : G.SpanningSubgraph) :
+    SpanningSubgraph.Adj (H ⇨ K) = SpanningSubgraph.Adj H ⇨ SpanningSubgraph.Adj K := by
+  ext e
+  simp [Pi.himp_apply, himp_eq, e.2, or_comm]
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/Digraph/Basic.lean]:
```suggestion
  simp [himp_eq, e.2, or_comm]
```

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 57]
```diff
@@ -167,21 +212,190 @@ theorem iSup_adj {f : ι → Digraph V} : (⨆ i, f i).Adj a b ↔ ∃ i, (f i).
...
+
+@[simp] theorem SpanningSubgraph.adj_sdiff {G : Digraph V} (H K : G.SpanningSubgraph) :
+    SpanningSubgraph.Adj (H \ K) = SpanningSubgraph.Adj H \ SpanningSubgraph.Adj K := by
+  ext e
+  simp [Pi.sdiff_apply, sdiff_eq, e.2]
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/Digraph/Basic.lean]:
```suggestion
  simp [sdiff_eq, e.2]
```

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 58]
```diff
@@ -167,21 +212,190 @@ theorem iSup_adj {f : ι → Digraph V} : (⨆ i, f i).Adj a b ↔ ∃ i, (f i).
...
+instance (G : Digraph V) : CompleteBooleanAlgebra G.SpanningSubgraph :=
+  fast_instance% Function.Injective.completeBooleanAlgebra SpanningSubgraph.Adj
+    SpanningSubgraph.adj_injective SpanningSubgraph.adj_le_iff
+      (by
+        intro H K
+        rw [lt_iff_le_not_ge, lt_iff_le_not_ge, SpanningSubgraph.adj_le_iff,
+          SpanningSubgraph.adj_le_iff])
+      (fun _ _ ↦ rfl) (fun _ _ ↦ rfl) SpanningSubgraph.adj_sSup
+      SpanningSubgraph.adj_sInf SpanningSubgraph.adj_top (by rfl)
+      SpanningSubgraph.adj_compl SpanningSubgraph.adj_himp SpanningSubgraph.adj_sdiff
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/Digraph/Basic.lean]:
```suggestion
    SpanningSubgraph.adj_injective SpanningSubgraph.adj_le_iff (fun {_ _} ↦ ?_) (fun _ _ ↦ rfl)
      (fun _ _ ↦ rfl) SpanningSubgraph.adj_sSup SpanningSubgraph.adj_sInf SpanningSubgraph.adj_top
      rfl SpanningSubgraph.adj_compl SpanningSubgraph.adj_himp SpanningSubgraph.adj_sdiff
where finally
  simp_rw [lt_iff_le_not_ge, SpanningSubgraph.adj_le_iff]
```

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 59]
```diff
@@ -221,8 +440,9 @@ instance SDiff.adjDecidable : DecidableRel (G \ H).Adj :=
 instance Top.adjDecidable : DecidableRel (⊤ : Digraph V).Adj :=
   inferInstanceAs <| DecidableRel fun _ _ ↦ True
 
-instance Compl.adjDecidable : DecidableRel (Gᶜ.Adj) :=
-  inferInstanceAs <| DecidableRel fun v w ↦ ¬G.Adj v w
+instance decidableRelAdjCompl : DecidableRel (Gᶜ.Adj) :=
+  inferInstanceAs <| DecidableRel fun v w ↦
+    v ∈ G.verts ∧ w ∈ G.verts ∧ ¬G.Adj v w
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/Digraph/Basic.lean]:
```suggestion
  inferInstanceAs <| DecidableRel fun v w ↦ v ∈ G.verts ∧ w ∈ G.verts ∧ ¬G.Adj v w
```

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 60]
```diff
@@ -167,21 +212,190 @@ theorem iSup_adj {f : ι → Digraph V} : (⨆ i, f i).Adj a b ↔ ∃ i, (f i).
...
+  max H₁ H₂ := ⟨max H₁.val H₂.val, by grind⟩
+
+/--
+The top subgraph `⊤`
+-/
+instance {G : Digraph V} : OrderTop G.SpanningSubgraph where
+  top := ⟨G, by aesop⟩
+  le_top := by
+    intro ⟨_, ⟨H_sub, _⟩⟩
+    exact H_sub
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/Digraph/Basic.lean]:
```suggestion
/-- The top subgraph `⊤` -/
instance : OrderTop G.SpanningSubgraph where
  top := ⟨G, by simp⟩
  le_top H := H.prop.left
```

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 61]
```diff
@@ -167,21 +212,190 @@ theorem iSup_adj {f : ι → Digraph V} : (⨆ i, f i).Adj a b ↔ ∃ i, (f i).
...
+
+/--
+The bottom subgraph `⊥`
+-/
+instance {G : Digraph V} : OrderBot G.SpanningSubgraph where
+  bot : G.SpanningSubgraph := ⟨
+    ⟨G.verts, fun _ _ => False, by simp, by simp⟩, by grind⟩
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/Digraph/Basic.lean]:
```suggestion
/-- The bottom subgraph `⊥` -/
instance : OrderBot G.SpanningSubgraph where
  bot : G.SpanningSubgraph := ⟨⟨G.verts, fun _ _ => False, by simp, by simp⟩, by grind⟩
```

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 62]
```diff
@@ -167,21 +212,190 @@ theorem iSup_adj {f : ι → Digraph V} : (⨆ i, f i).Adj a b ↔ ∃ i, (f i).
...
+  bot_le := by grind
+
+/-- The complement of a spanning subgraph with respect to its ambient digraph. -/
+instance {G : Digraph V} : Compl G.SpanningSubgraph where
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/Digraph/Basic.lean:261]:
```suggestion
instance : Compl G.SpanningSubgraph where
```
and similarly below

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 63]
```diff
@@ -46,114 +46,159 @@ In this treatment, a digraph may have self-loops.
...
 @[simps]
-def completeBipartiteGraph (V W : Type*) : Digraph (Sum V W) where
+def completeBipartite (V W : Type*) : Digraph (Sum V W) where
   Adj v w := v.isLeft ∧ w.isRight ∨ v.isRight ∧ w.isLeft
+  verts := Set.univ
 
-variable {ι : Sort*} {V : Type*} (G : Digraph V) {a b : V}
+/-- Deprecated alias for `completeBipartite`. -/
+@[deprecated completeBipartite (since := "2026-09-01")]
+abbrev completeBipartiteGraph := completeBipartite
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/Digraph/Basic.lean]:
```suggestion
@[deprecated (since := "2026-09-01")] alias completeBipartiteGraph := completeBipartite
```

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 64]
```diff
@@ -195,7 +409,11 @@ instance completeAtomicBooleanAlgebra : CompleteAtomicBooleanAlgebra (Digraph V)
 
 instance [IsEmpty V] : Unique (Digraph V) where
   default := ⊥
-  uniq G := by ext1; congr!
+  uniq G := by
+    ext1
+    · rw [← Digraph.emptyDigraph_eq_bot, Set.eq_empty_of_isEmpty G.verts]
+      rfl
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/Digraph/Basic.lean]:
```suggestion
    · simp [Set.eq_empty_of_isEmpty]
```

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 65]
```diff
@@ -167,21 +212,190 @@ theorem iSup_adj {f : ι → Digraph V} : (⨆ i, f i).Adj a b ↔ ∃ i, (f i).
...
 theorem iInf_adj {f : ι → Digraph V} : (⨅ i, f i).Adj a b ↔ (∀ i, (f i).Adj a b) := by simp [iInf]
 
-instance : PartialOrder (Digraph V) := fast_instance% PartialOrder.lift _ adj_injective
+instance : LT (Digraph V) where
+  lt G H := G ≤ H ∧ ¬H ≤ G
+
+instance distribLattice : DistribLattice (Digraph V) :=
+  fast_instance% Function.Injective.distribLattice (fun G ↦ (G.verts, G.Adj))
+    (fun _ _ h ↦ Digraph.ext (congrArg Prod.fst h) (congrArg Prod.snd h))
+    .rfl .rfl (fun _ _ ↦ rfl) fun _ _ ↦ rfl
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/Digraph/Basic.lean]:
```suggestion
instance : DistribLattice (Digraph V) :=
  fast_instance% Function.Injective.distribLattice (fun G ↦ (G.verts, G.Adj)) (fun _ _ ↦ by simp)
    .rfl .rfl (fun _ _ ↦ rfl) (fun _ _ ↦ rfl)
```

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 66]
```diff
@@ -167,21 +212,190 @@ theorem iSup_adj {f : ι → Digraph V} : (⨆ i, f i).Adj a b ↔ ∃ i, (f i).
...
+
+
+/-- The adjacency relation of a spanning subgraph, restricted to the edges of the ambient
+digraph. -/
+@[simp] def SpanningSubgraph.Adj {G : Digraph V} (H : G.SpanningSubgraph) :
+    {e : V × V // G.Adj e.1 e.2} → Prop := fun e ↦ H.val.Adj e.1.1 e.1.2
+
+/-- The join/union of two spanning subgraphs. -/
+instance {G : Digraph V} : Max G.SpanningSubgraph where
+  max H₁ H₂ := ⟨max H₁.val H₂.val, by grind⟩
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/Digraph/Basic.lean]: Could you move this next to the `Min` instance below?

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 67]
```diff
@@ -46,114 +46,159 @@ In this treatment, a digraph may have self-loops.
...
+    verts := x.verts ∩ y.verts
+    Adj v w := x.Adj v w ∧ y.Adj v w
+  }
 
-@[simp]
+@[grind =]
+theorem inf_verts (x y : Digraph V) : (x ⊓ y).verts = x.verts ∩ y.verts := rfl
+
+@[grind =]
 theorem inf_adj (x y : Digraph V) (v w : V) : (x ⊓ y).Adj v w ↔ x.Adj v w ∧ y.Adj v w := Iff.rfl
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/Digraph/Basic.lean]: Why did these lose `simp`?
```suggestion
@[simp, grind =]
theorem inf_verts (x y : Digraph V) : (x ⊓ y).verts = x.verts ∩ y.verts := rfl

@[simp, grind =]
theorem inf_adj (x y : Digraph V) (v w : V) : (x ⊓ y).Adj v w ↔ x.Adj v w ∧ y.Adj v w := .rfl
```

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 39 above)
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: Fixed now. Thanks.

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 46 above)
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: fixed.

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 47 above)
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: also fixed.

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 48 above)
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: I applied both suggestions assuming I got the intent of your first comment about Adj correct.

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 49 above)
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: why a separate `variable {G} in` for a single theorem?

Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: I have taken the suggestion to turn the proof into term mode.

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 50 above)
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: Done.

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 51 above)
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: Done.

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 52 above)
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: Done.

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 53 above)
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: Done.

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 63 above)
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: done

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 4 above)
[the remark this answers is not in the document]
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean:116]: it's added now.

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 67 above)
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: I wasn't using them anywhere with simp once I switched to grind. Added them again.

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 55 above)
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: done.

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 57 above)
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: done.

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 62 above)
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean:261]: Got all 5 instances I think

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 66 above)
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: done

**Comment by Shreyas4991** [comment]
@YaelDillies and @SnirBroshi 
I think I have gone over and accepted almost all review suggestions.
1.  One remains unresolved and that is because I wonder why `variable {G} in` makes sense for a single declaration. 
2. Another remains unresolved because I would prefer to check whether I got Snir's suggestion correct.

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 49 above)
Comment (SnirBroshi) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: I think it makes sense to use lots of `variable .. in`s rather than repeat the same variable everywhere, but it's a style choice so up to you.
Regardless I think there's a redundant newline between `G` and `H`; it should be:
```lean
theorem SpanningSubgraph.adj_le_adj_iff {G : Digraph V} {H K : G.SpanningSubgraph} :
    ...
```

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 68]
```diff
@@ -46,146 +46,334 @@ In this treatment, a digraph may have self-loops.
...
 @[ext]
 structure Digraph (V : Type*) where
+  /-- The vertex set of a digraph. -/
+  verts : Set V
   /-- The adjacency relation of a digraph. -/
   Adj : V → V → Prop
+  /-- There is no edge of the digraph outside its vertices. -/
+  left_mem_verts_of_adj ⦃v w : V⦄ : Adj v w → v ∈ verts := by grind
+  /-- There is no edge of the digraph outside its vertices. -/
+  right_mem_verts_of_adj ⦃v w : V⦄ : Adj v w → w ∈ verts := by grind
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/Digraph/Basic.lean:56]: Could you add easy dot-notation on `Adj` for these? Something like
```lean
theorem Adj.left_mem_verts {v w : V} (h : G.Adj v w) : v ∈ verts :=
  G.left_mem_verts_of_adj h

theorem Adj.right_mem_verts {v w : V} (h : G.Adj v w) : w ∈ verts :=
  G.right_mem_verts_of_adj h
```

Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean:56]: Is that a valid form of theorem one can add, just to expose the dot notation?

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 49 above)
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: Fixed it now.

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 68 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/Digraph/Basic.lean:56]: Yeah sure

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 69]
```diff
@@ -46,146 +46,333 @@ In this treatment, a digraph may have self-loops.
...
 @[simps]
-def completeBipartiteGraph (V W : Type*) : Digraph (Sum V W) where
+def completeBipartite (V W : Type*) : Digraph (Sum V W) where
   Adj v w := v.isLeft ∧ w.isRight ∨ v.isRight ∧ w.isLeft
+  verts := Set.univ
 
-variable {ι : Sort*} {V : Type*} (G : Digraph V) {a b : V}
+/-- Deprecated alias for `completeBipartite`. -/
+@[deprecated completeBipartite (since := "2026-09-01")]
+alias completeBipartiteGraph := completeBipartite
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/Digraph/Basic.lean]:
```suggestion
@[deprecated (since := "2026-09-01")] alias completeBipartiteGraph := completeBipartite
```
(https://github.com/leanprover-community/mathlib4/pull/33466#discussion_r3918493516)

Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: done

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 68 above)
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean:56]: done. I added them outside the Digraph namespace.

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 70]
```diff
@@ -46,146 +46,340 @@ In this treatment, a digraph may have self-loops.
...
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/Digraph/Basic.lean]: I'm confused, is this done or not? am I missing something?
```suggestion
@[deprecated (since := "2026-09-01")] alias completeBipartiteGraph := completeBipartite
```
https://github.com/leanprover-community/mathlib4/pull/33466#discussion_r3928681613
https://github.com/leanprover-community/mathlib4/pull/33466#discussion_r3918493516

Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: sorry I missed the syntax change for deprecated. Will do now.

Comment (SnirBroshi) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: You can apply it in the GitHub UI directly

Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: Okay, done.

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 71]
```diff
@@ -46,146 +46,338 @@ In this treatment, a digraph may have self-loops.
...
+-/
+def SpanningSubgraph (G : Digraph V) := {H : Digraph V // IsSpanningSubgraph H G}
 
-instance completeAtomicBooleanAlgebra : CompleteAtomicBooleanAlgebra (Digraph V) where
+instance {G : Digraph V} : PartialOrder G.SpanningSubgraph :=
+  Subtype.partialOrder _
+
+@[grind =] theorem SpanningSubgraph.le_iff {G : Digraph V}
+    {H K : G.SpanningSubgraph} :
+    H ≤ K ↔ H.val ≤ K.val := .rfl
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/Digraph/Basic.lean]:
```suggestion
@[grind =] theorem SpanningSubgraph.le_iff {G : Digraph V} {H K : G.SpanningSubgraph} :
    H ≤ K ↔ H.val ≤ K.val := .rfl
```

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 72]
```diff
@@ -46,146 +46,338 @@ In this treatment, a digraph may have self-loops.
...
+
+@[simp] theorem SpanningSubgraph.compl_val_adj {G : Digraph V} (H : G.SpanningSubgraph)
+    (v w : V) : (Hᶜ).val.Adj v w ↔ G.Adj v w ∧ ¬H.val.Adj v w := .rfl
+
+@[simp] theorem SpanningSubgraph.himp_val_adj {G : Digraph V} (H K : G.SpanningSubgraph)
+    (v w : V) : (H ⇨ K).val.Adj v w ↔ (G.Adj v w ∧ ¬H.val.Adj v w) ∨ K.val.Adj v w := .rfl
+
+@[simp] theorem SpanningSubgraph.sdiff_val_adj {G : Digraph V} (H K : G.SpanningSubgraph)
+    (v w : V) : (H \ K).val.Adj v w ↔
+      H.val.Adj v w ∧ (G.Adj v w ∧ ¬K.val.Adj v w) := .rfl
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/Digraph/Basic.lean]:
```suggestion
    (v w : V) : (H \ K).val.Adj v w ↔ H.val.Adj v w ∧ (G.Adj v w ∧ ¬K.val.Adj v w) := .rfl
```

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 73]
```diff
@@ -46,146 +46,338 @@ In this treatment, a digraph may have self-loops.
...
+    (h : G.Adj v w) : v ∈ G.verts :=
+  G.left_mem_verts_of_adj h
+
+theorem Adj.right_mem_verts {V : Type*} {G : Digraph V} {v w : V}
+    (h : G.Adj v w) : w ∈ G.verts :=
+  G.right_mem_verts_of_adj h
+
+namespace Digraph
+
+attribute [grind →] left_mem_verts_of_adj right_mem_verts_of_adj
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/Digraph/Basic.lean]: These have to be under `Digraph.Adj` for dot-notation to work
```suggestion

namespace Digraph

variable {V : Type*} {G : Digraph V} {v w : V}

@[grind →]
theorem Adj.left_mem_verts (h : G.Adj v w) : v ∈ G.verts :=
  G.left_mem_verts_of_adj h

@[grind →]
theorem Adj.right_mem_verts (h : G.Adj v w) : w ∈ G.verts :=
  G.right_mem_verts_of_adj h
```

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 74]
```diff
@@ -46,146 +46,338 @@ In this treatment, a digraph may have self-loops.
...
+
+@[grind =] theorem SpanningSubgraph.le_iff {G : Digraph V}
+    {H K : G.SpanningSubgraph} :
+    H ≤ K ↔ H.val ≤ K.val := .rfl
+
+
+/-- The adjacency relation of a spanning subgraph, restricted to the edges of the ambient
+digraph. -/
+@[simp] def SpanningSubgraph.Adj {G : Digraph V} (H : G.SpanningSubgraph) :
+    {e : V × V // G.Adj e.1 e.2} → Prop := fun e ↦ H.val.Adj e.1.1 e.1.2
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/Digraph/Basic.lean]: This definition seems weird to me. Is it intentionally `@[simp]`? Why does it take a bundled dart as opposed to `{v w : V} (h : G.Adj v w)`? Also what's the point of the `G.Adj` part?

If the answer is that it's tailored to the `CompleteBooleanAlgebra` instance, then shouldn't it be an auxiliary def? (we can't mark it `private`, but we can add "aux" to the name and maybe even just define it as a `let f := ...` inside the instance)

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 73 above)
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: oh right sorry. I'll just move them under Digraph.

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 74 above)
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: I could formulate it like you said, but basically the idea is to expose the adjacency relation of a spanning subgraph of G. I think I inserted this in response to one of the fast_instance% related requests, for one of the function lemmas to work, but I'd have to go back and check.

Comment (SnirBroshi) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: The adjacency relation of `H : G.SpanningSubgraph` is just `H.val.Adj`. This `def` is packaging it in a pretty peculiar way.

> I think I inserted this in response to one of the fast_instance% related requests

Yeah for `CompleteBooleanAlgebra` https://github.com/leanprover-community/mathlib4/commit/4d0c093ae1bfcc2e37d01ddfe7db314d0b9b76cb

File: Mathlib/Combinatorics/Digraph/Orientation.lean
Comment (SnirBroshi) [inline Mathlib/Combinatorics/Digraph/Orientation.lean:1]: Could you mention in the docstrings of `toSimpleGraphInclusive` & `toSimpleGraphStrict` that the vertex set is being ignored since `SimpleGraph`s don't have one yet?

Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Orientation.lean:1]: Okay will do.

Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Orientation.lean:1]: Done.

File: Mathlib/Combinatorics/Digraph/Orientation.lean [hunk 75]
```diff
@@ -28,7 +28,8 @@ the edge orientations of `Digraph`.
 - Define more ways to orient a `SimpleGraph`.
 - Provide lemmas on how `toSimpleGraphInclusive` and `toSimpleGraphStrict` relate to other lattice
   structures on `SimpleGraph`s and `Digraph`s.
-
+- Note that currently both definitions ignore the vertex set since
+  `SimpleGraph` doesn't have vertex sets yet.
 ## Tags
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/Digraph/Orientation.lean]:
```suggestion
  `SimpleGraph` doesn't have vertex sets yet.

## Tags
```

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 74 above)
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: I now recall. this definition let us use dot notation directly with Adj and the fast_instance% code was much neater as a result

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 76]
```diff
@@ -46,146 +46,337 @@ In this treatment, a digraph may have self-loops.
...
-  compl G := { Adj := fun v w ↦ ¬G.Adj v w }
+  compl G := {
+    verts := G.verts
+    Adj v w := v ∈ G.verts ∧ w ∈ G.verts ∧ ¬G.Adj v w
+  }
 
-@[simp] theorem compl_adj (G : Digraph V) (v w : V) : Gᶜ.Adj v w ↔ ¬G.Adj v w := Iff.rfl
+@[simp] theorem compl_adj (G : Digraph V) (v w : V) (hv : v ∈ G.verts)
+    (hw : w ∈ G.verts) : Gᶜ.Adj v w ↔ ¬G.Adj v w :=
+  ⟨fun h => h.2.2, fun h => ⟨hv, hw, h⟩⟩
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/Digraph/Basic.lean]:
```suggestion
@[simp] theorem compl_adj {G : Digraph V} : Gᶜ.Adj v w ↔ v ∈ G.verts ∧ w ∈ G.verts ∧ ¬G.Adj v w :=
  .rfl
```
otherwise `simp` won't be able to simplify `Gᶜ.Adj`

File: Mathlib/Combinatorics/Digraph/Basic.lean (hunk 74 above)
Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: should I make it an Aux def? It seems convenient to have the adj relation easily accessible for spanning subgraphs.

Comment (Shreyas4991) [reply Mathlib/Combinatorics/Digraph/Basic.lean]: Note that removing `simp` breaks a bunch of theorems on SpanningSubgraph break which are then used in the CompleteBooleanAlgebra instance. The instance was annoyingly complicated without them.

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 77]
```diff
@@ -46,146 +46,337 @@ In this treatment, a digraph may have self-loops.
...
+/-- The infimum of a set of spanning subgraphs. -/
+instance : InfSet G.SpanningSubgraph where
+  sInf ℋ := ⟨{
+      verts := G.verts
+      Adj v w := (∀ H ∈ ℋ, H.val.Adj v w) ∧ G.Adj v w
+    }, by grind⟩
+
+instance : HImp G.SpanningSubgraph where
+  himp H K := Hᶜ ⊔ K
+
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/Digraph/Basic.lean:291]: If you add a `HNot`
```suggestion

instance : HNot G.SpanningSubgraph where
  hnot H := Hᶜ

```

File: Mathlib/Combinatorics/Digraph/Basic.lean [hunk 78]
```diff
@@ -46,146 +46,337 @@ In this treatment, a digraph may have self-loops.
...
+@[simp] theorem SpanningSubgraph.adj_sdiff {G : Digraph V} (H K : G.SpanningSubgraph) :
+    SpanningSubgraph.Adj (H \ K) = SpanningSubgraph.Adj H \ SpanningSubgraph.Adj K := by
+  ext e
+  simp [sdiff_eq, e.2]
+
+instance (G : Digraph V) : CompleteBooleanAlgebra G.SpanningSubgraph :=
+  fast_instance% Function.Injective.completeBooleanAlgebra SpanningSubgraph.Adj
+    SpanningSubgraph.adj_injective SpanningSubgraph.adj_le_iff (fun {_ _} ↦ ?_) (fun _ _ ↦ rfl)
+      (fun _ _ ↦ rfl) SpanningSubgraph.adj_sSup SpanningSubgraph.adj_sInf SpanningSubgraph.adj_top
+      rfl SpanningSubgraph.adj_compl SpanningSubgraph.adj_himp SpanningSubgraph.adj_sdiff
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/Digraph/Basic.lean]: Then you get an upgrade to `CompleteAtomicBooleanAlgebra`
```suggestion
instance : CompleteAtomicBooleanAlgebra G.SpanningSubgraph :=
  fast_instance% Function.Injective.completeAtomicBooleanAlgebra SpanningSubgraph.Adj
    SpanningSubgraph.adj_injective SpanningSubgraph.adj_le_iff (fun {_ _} ↦ ?_) (fun _ _ ↦ rfl)
      (fun _ _ ↦ rfl) SpanningSubgraph.adj_sSup SpanningSubgraph.adj_sInf SpanningSubgraph.adj_top
      rfl SpanningSubgraph.adj_compl SpanningSubgraph.adj_himp SpanningSubgraph.adj_compl
      SpanningSubgraph.adj_sdiff
```

**Comment by Shreyas4991** [comment]
Anything further? 

Edit : @YaelDillies  and @SnirBroshi  I think I covered all your reviews.

**Comment by Shreyas4991** [comment]
-awaiting-author

**Comment by Shreyas4991** [comment]
@SnirBroshi and @YaelDillies is there anything further needed for this PR? I just want to ping you both before this PR starts acquiring merge conflicts again.

**Comment by SnirBroshi** [comment]
IMO we have to revert 6bae43a4858af78a3b9c20f974ae1d8844e62a59, restore the deleted `Fintype (Digraph V)` instance, and find a better way to create the `CompleteAtomicBooleanAlgebra G.SpanningSubgraph` instance (without the strange `def SpanningSubgraph.Adj`).

I think the `Fintype` one isn't super important for this PR (we can fix it later), but the lattice instance is.
I've been tinkering with some stuff locally, still haven't figured it out. Something like:
```lean
instance (G : Digraph V) : CompleteAtomicBooleanAlgebra G.SpanningSubgraph :=
  fast_instance% Function.Injective.completeAtomicBooleanAlgebra
    (fun H (e : {e : V × V // G.Adj e.fst e.snd }) ↦ H.val.Adj e.val.fst e.val.snd) (by sorry)
    (by sorry) (by sorry) (fun _ _ ↦ by ext; simp) (fun _ _ ↦ by ext; simp) (fun _ ↦ by ext; simp)
    (fun _ ↦ by ext e; simp [e.prop]) (by ext e; simp [e.prop]) (by ext; simp)
    (fun _ ↦ by ext e; simp [e.prop]) (fun _ _ ↦ by ext e; simp [e.prop]; sorry)
    (fun _ ↦ by ext e; simp [e.prop]; sorry) (fun _ _ ↦ by ext e; simp [e.prop]; sorry)
```

**Comment by Shreyas4991** [comment]
> IMO we have to revert 6bae43a4858af78a3b9c20f974ae1d8844e62a59, restore the deleted `Fintype (Digraph V)` instance, and find a better way to create the `CompleteAtomicBooleanAlgebra G.SpanningSubgraph` instance (without the strange `def SpanningSubgraph.Adj`).
> 
> 
> 
> I think the `Fintype` one isn't super important for this PR (we can fix it later), but the lattice instance is.
> 
> I've been tinkering with some stuff locally, still haven't figured it out. Something like:
> 
> ```lean
> 
> instance (G : Digraph V) : CompleteAtomicBooleanAlgebra G.SpanningSubgraph :=
> 
>   fast_instance% Function.Injective.completeAtomicBooleanAlgebra
> 
>     (fun H (e : {e : V × V // G.Adj e.fst e.snd }) ↦ H.val.Adj e.val.fst e.val.snd) (by sorry)
> 
>     (by sorry) (by sorry) (fun _ _ ↦ by ext; simp) (fun _ _ ↦ by ext; simp) (fun _ ↦ by ext; simp)
> 
>     (fun _ ↦ by ext e; simp [e.prop]) (by ext e; simp [e.prop]) (by ext; simp)
> 
>     (fun _ ↦ by ext e; simp [e.prop]) (fun _ _ ↦ by ext e; simp [e.prop]; sorry)
> 
>     (fun _ ↦ by ext e; simp [e.prop]; sorry) (fun _ _ ↦ by ext e; simp [e.prop]; sorry)
> 
> ```

Isn't it better to mark the offending definitions and theorems  private?

**Comment by SnirBroshi** [comment]
> Isn't it better to mark the offending definitions and theorems private?

You can't, it's an instance.
But also that's a lot of private `simp` lemmas for a single instance.

**Comment by Shreyas4991** [comment]
> > Isn't it better to mark the offending definitions and theorems private?
> 
> You can't, it's an instance. But also that's a lot of private `simp` lemmas for a single instance.

I asked GPT and it suggested the following instance which compiles. However I am not sure I should add this in since it was not exactly my own code. Opinions welcome @SnirBroshi 

What it has done is move the def into a `let` and essentially moved all the simp lemmas into one big `all_goals` proof. 
```lean
instance : CompleteAtomicBooleanAlgebra G.SpanningSubgraph := fast_instance% by
  let f : G.SpanningSubgraph → {e : V × V // G.Adj e.1 e.2} → Prop :=
    fun H e ↦ H.val.Adj e.1.1 e.1.2
  have le : ∀ {H K : G.SpanningSubgraph}, f H ≤ f K ↔ H ≤ K := by
    simp only [f, Pi.le_def, le_Prop_eq, Subtype.forall, Prod.forall]
    grind
  refine Function.Injective.completeAtomicBooleanAlgebra f
    (fun _ _ h ↦ (le.mp h.le).antisymm (le.mp h.ge)) le
    (by intros; simp_rw [lt_iff_le_not_ge, le]) (fun _ _ ↦ rfl) (fun _ _ ↦ rfl)
    ?_ ?_ ?_ rfl ?_ ?_ ?_ ?_
  all_goals
    intros
    ext e
    simp [f, SupSet.sSup, InfSet.sInf, Top.top, Compl.compl, HImp.himp, HNot.hnot,
      SDiff.sdiff, Max.max, Min.min, Lattice.inf, e.2, imp_iff_not_or]
```

This can be golfed to 

```lean

instance : CompleteAtomicBooleanAlgebra G.SpanningSubgraph := fast_instance% by
  apply Function.Injective.completeAtomicBooleanAlgebra
    (fun (H : G.SpanningSubgraph) (e : {e : V × V // G.Adj e.1 e.2}) ↦ H.val.Adj e.1.1 e.1.2) <;>
    simp [SpanningSubgraph, Function.Injective, funext_iff, Subtype.ext_iff, Digraph.ext_iff,
      Pi.le_def, le_Prop_eq, lt_iff_le_not_ge, Subtype.forall, Prod.forall, SupSet.sSup,
      InfSet.sInf, Top.top, Bot.bot, Compl.compl, HImp.himp, HNot.hnot, SDiff.sdiff, Max.max,
      Min.min, Lattice.inf, SemilatticeSup.sup, SemilatticeInf.inf, imp_iff_not_or] <;> grind
```
But the `simp?` list doesn't suffice (grind throws an error with the simp only version).

**Comment by SnirBroshi** [comment]
I agree with the gist, but instead of passing all of these defs into `simp` we should add `simp` lemmas for each of the notation instances. This is what I've tried locally and it mostly works, just a couple of sorries left as you can see above. The first 3 are easy and we can ignore them, but the last 3 are because I'm missing `simp` lemmas for `HImp`/`HNot`/`SDiff`. But the few I've tried so far don't seem to easily solve them.

**Comment by Shreyas4991** [comment]
@SnirBroshi I pushed the golfed version I had.

**Comment by Shreyas4991** [comment]
@SnirBroshi and @YaelDillies is there anything else that needs to be done to get this PR into the merge queue?
